US07763638B2
2. Synthesis of {6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid methyl ester
This compound is prepared by reaction of 6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-1,2,3,4-tetrahydroisoquinoline with α-bromo-phenyl-acetic acid methyl ester.

reactant | 6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCNC(C2=CC1OC)CCC=1C=NC(=CC1)C(F)(F)F | C19H21F3N2O2
reactant | α-bromo-phenyl-acetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
product | {6,7-dimethoxy-1-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid methyl ester | COC(C(C1=CC=CC=C1)N1C(C2=CC(=C(C=C2CC1)OC)OC)CCC=1C=NC(=CC1)C(F)(F)F)=O | C28H29F3N2O4
